US06720423B2
3,3,7-Trimethyl-2,3-dihydro-benzofuran-5-boronic Acid (Intermediate 8)
Following General Procedure A and using 5-bromo-3,3,7-trimethyl-2,3-dihydro-benzofuran (1.2 g, 5 mmol), 12 mL of anhydrous tetrahydrofuran, 1.7M solution of t-butyllithium in n-pentane (6.17 mL, 10.5 mmol) and trimethyl borate (1.2 mL, 10.5 mmol) the title compound was obtained as a foam that was used as such for the next step without purification and characterization. 5-Bromo-3,3,7-trimethyl-2,3-dihydro-benzofuran can be prepared as described in U.S. Pat. No. 6,093,838, incorporated herein by reference.

reactant | 5-bromo-3,3,7-trimethyl-2,3-dihydro-benzofuran | 5 mmol, 1.2 g | BrC=1C=C(C2=C(C(CO2)(C)C)C1)C | C11H13BrO
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | n-pentane | 10.5 mmol, 6.17 mL | CCCCC | C5H12
reactant | trimethyl borate | 10.5 mmol, 1.2 mL | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3,3,7-Trimethyl-2,3-dihydro-benzofuran-5-boronic Acid | CC1(COC2=C1C=C(C=C2C)B(O)O)C | C11H15BO3
